data/pmechdb/original/mc_train_fold0/raw/train.txt
C1C(=C([O:10][C:20]1(C2=CC=CC=C2)[OH2+:21])C3=CC=CC=C3)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>C1C(=C([O+:10]=[C:20]1C2=CC=CC=C2)C3=CC=CC=C3)C#N.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
[H:20][NH2+:21]CC(=O)[O-].O[Ca][OH:10].[OH2+][Ca]O.[Cl-]>>[H:20][OH+:10][Ca]O.C(C(=O)[O-])[NH2:21].[OH2+][Ca]O.[Cl-] 10=20;20,21=21
CC(=O)C1=CO[CH:10]=[CH:11]1.[N+:20](=O)=[O:21]>>CC(=O)C1=CO[CH:10]([CH+:11]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:20][O+:21](CC)I1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)OC(=[O:10])C.CC(=O)O>>[H:20][O+:10]=C(C)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]CC)OC(=O)C.CC(=O)O 10=20;20,21=21
[H:20][NH2+:21]C.C1C([NH2+]C2C1=CC(=O)C(=C2)[O-:10])C(=O)[O-]>>[H:20][O:10]C1=CC2C(=CC1=O)CC([NH2+]2)C(=O)[O-].C[NH2:21] 10=20;20,21=21
[CH:10]1=[CH:11]C=C(C=C1)Cl.[CH:20](=[OH+:21])C(Cl)(Cl)Cl.OS(=O)(=O)[O-]>>C1=CC(=C[CH+:11][CH:10]1[CH:20](C(Cl)(Cl)Cl)[OH:21])Cl.OS(=O)(=O)[O-] 10,11=10,20;20,21=21
C1COCC[NH:10]1.C1=CC=C(C=C1)[CH2:20][Cl:21]>>C1COCC[NH+:10]1[CH2:20]C2=CC=CC=C2.[Cl-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C3CC(CC(O3)CCC4=CC=C(C=C4)OCC5=CC=CC=C5)[Br+:11][Sn-:10](OC(=O)C)(Br)(Br)Br>>CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C3CC(CC(O3)CCC4=CC=C(C=C4)OCC5=CC=CC=C5)[Br:11].CC(=O)O[Sn:10](Br)(Br)Br 10,11=11
CC[C:20]#[NH+:21].CC[OH:10]>>CC[C:20](=[NH:21])[OH+:10]CC 10=20;20,21=21
CC(CC1CCCCCC1)C=[O+:11][Si-:10](C)(C)(C)OC(=O)C>>CC(CC1CCCCCC1)C=[O:11].CC(=O)O[Si:10](C)(C)C 10,11=11
[H:20][CH:21]([C:22](=[O:23])C)C(=O)OC.C1CCC2=[N:10]CCCN2CC1.COC(=O)C(=C)Br>>[H:20][N+:10]1=C2CCCCCN2CCC1.C[C:22](=[CH:21]C(=O)OC)[O-:23].COC(=O)C(=C)Br 10=20;22,23=23;20,21=21,22
[H:20][O:21][C:22](=[NH+:23]C1CCCCC1)C=C.[OH2:10]>>[H:20][OH2+:10].C=C[C:22](=[O:21])[NH:23]C1CCCCC1 10=20;22,23=23;20,21=21,22
CC1=CC=C(C=C1)S(=O)(=O)[O:11][CH2:10]CC2=CC=C(C=C2)[N+](=O)[O-].C(=O)O>>CC1=CC=C(C=C1)S(=O)(=O)[O-:11].[CH2+:10]CC1=CC=C(C=C1)[N+](=O)[O-].C(=O)O 10,11=11
CC(C)OC1=C(C=CC(=C1)F)N2CC[NH:10]CC2.CC(C)(C)OC(=O)NC1CC[C:20](=[O:21])CC1.CC(=O)O>>CC(C)OC1=C(C=CC(=C1)F)N2CC[NH+:10](CC2)[C:20]3(CCC(CC3)NC(=O)OC(C)(C)C)[O-:21].CC(=O)O 10=20;20,21=21
CCCCCC1=C[C:11](=[C:10](C(=C1)O)[CH:20](C=C(C)CCC=C(C)C)[OH2+:21])[OH:12].[Cl-]>>CCCCCC1=C[C:11](=[OH+:12])[C:10](=[CH:20]C=C(C)CCC=C(C)C)C(=C1)O.[OH2:21].[Cl-] 10,11=10,20;20,21=21;12=11
C[C:11](=[CH:10]C(=O)OC)[O-:12].CO[C:22](=[O:23])[C:21](=[CH2:20])Br.C1CCC2=[NH+]CCCN2CC1>>C[C:11](=[O:12])[CH:10]([CH2:20][C:21](=[C:22]([O-:23])OC)Br)C(=O)OC.C1CCC2=[NH+]CCCN2CC1 10,11=10,20;12=11;22,23=23;20,21=21,22
C[CH:20]([Cl:10])[Br:21]>>C[CH:20]=[Cl+:10].[Br-:21] 10=20;20,21=21
CC(C)[Cl:10].[Al:20](Cl)(Cl)Cl>>CC(C)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
[H:20][CH2:21][CH+:22]C=CCC.[OH2:10]>>[H:20][OH2+:10].CCC=C[CH:22]=[CH2:21] 10=20;20,21=21,22
[H:20][C:21](CCCOCC1=CC=CC=C1)([C:22]2=[N+:23](C(=C(S2)CCO)C)CCC3=CC=C(C=C3)C[N+]4=CSC(=C4C)CCO)O.CC[N:10](CC)CC.CCO.C1=CC=C(C=C1)C=CC(=O)C2=CC=CC=C2.C1=CC(=NC=C1)C(=O)C=CC2=CC=CO2.[Br-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(S[C:22](=[C:21](CCCOCC2=CC=CC=C2)O)[N:23]1CCC3=CC=C(C=C3)C[N+]4=CSC(=C4C)CCO)CCO.CCO.C1=CC=C(C=C1)C=CC(=O)C2=CC=CC=C2.C1=CC(=NC=C1)C(=O)C=CC2=CC=CO2.[Br-] 10=20;22,23=23;20,21=21,22
[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[NH2:10])OC.[N:20]#[O+:21].O>>[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[NH2+:10][N:20]=[O:21])OC.O 10=20;20,21=21
[Li-:10](O)[OH+:11]C1C2C3CCC(C3)C1(C4C2CC=C4)Cl>>[Li:10]O.C1CC2CC1C3C4CC=CC4C2(C3[OH:11])Cl 10,11=11
[H:20][O+:21]1CCOC1C2=CC=CC(=C2)Cl.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>C1COC([O:21]1)C2=CC=CC(=C2)Cl.[H:20][OH2+:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
CCOC(=O)C(C=C(C)[NH:10]C)[C:20](=[O:21])C.C[NH3+].O>>CCOC(=O)C1C=C([NH+:10]([C:20]1(C)[O-:21])C)C.C[NH3+].O 10=20;20,21=21
CC[C+:20]1CCCC(C1)C.CC[OH:10]>>CC[C:20]1(CCCC(C1)C)[OH+:10]CC 10=20,
[Li:20][OH+]C(C)C(C)C1=CC=CC=C1.[OH-:10].[AlH3]>>[Li-:20]([OH:10])[OH+]C(C)C(C)C1=CC=CC=C1.[AlH3] 10=20,
[H:20][CH:21]1C(C([O+:23]=[C:22]1C2=CC=CC=C2)(C3=CC=CC=C3)O)C(=O)C4=CC=CC=C4.C(F)(F)(F)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C(F)(F)F.C1=CC=C(C=C1)[C:22]2=[CH:21]C(C([O:23]2)(C3=CC=CC=C3)O)C(=O)C4=CC=CC=C4 10=20;22,23=23;20,21=21,22
[H:20][O+:21]1C(C=CC1(C)O)C2C(=O)OC3C2(OCC3O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1(C=CC([O:21]1)C2C(=O)OC3C2(OCC3O)O)O 10=20;20,21=21
C[C:11](=[CH:10]C(=O)OC(C)(C)C)[O:12][K].CC(C)(C)O.C=CC[CH2:20][Br:21]>>C[C:11](=[O+:12][K])[CH:10]([CH2:20]CC=C)C(=O)OC(C)(C)C.CC(C)(C)O.[Br-:21] 10,11=10,20;12=11;20,21=21
[H:20][O+:21]=CC(CO)Br.[OH2:10]>>[H:20][OH2+:10].C(C(C=[O:21])Br)O 10=20;20,21=21
CC(=O)OC1C([C:20](OC2=CC=CC(=C12)OC)([O-:10])[O:21]C(=O)C)NC(=O)C3=CC=CC=C3.CC(=O)[O-].C(=O)(O)O[K].[K+]>>CC(=O)[O-:21].CC(=O)OC1C([C:20](=[O:10])OC2=CC=CC(=C12)OC)NC(=O)C3=CC=CC=C3.CC(=O)[O-].C(=O)(O)O[K].[K+] 10=20;20,21=21
C[CH:20]=[OH+:21].[OH2:10]>>C[CH:20]([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][N+:21](=CN(C)C)C.[Li][O+]=C[CH-:10]P(=O)(OC)OC>>[H:20][CH:10](C=[O+][Li])P(=O)(OC)OC.C[N:21]=CN(C)C 10=20;20,21=21
